* Z:\mnt\spice-netlists\LTC3864_DC2434A.asc
XU1 NC_01 N011 0 N007 N008 N005 N012 N002 N001 N003 IN N006 0 LTC3864
V1 IN 0 24
C2 IN N001 0.47µ
R1 IN N003 13m
M1 N009 N006 N003 N003 Si7469DP
D1 0 N009 PDS760
L1 N009 OUT 15µ
R2 OUT N012 100K
R3 OUT N008 464K
R4 N008 0 33.2K
C3 OUT 0 6.3µ x2
C4 N005 0 330p
C1 N004 0 3300p
C5 OUT N008 10p
C6 N007 0 2700p
R6 IN N002 100K
R7 N002 0 21.5K
R5 N011 0 37.4K
C7 OUT 0 56µ
S1 0 OUT N010 0 Rload
V2 N010 0 PULSE(0 1 0.9m 10n 10n 0.1m)
R8 N005 N004 10K
C8 IN 0 22µ x2
C9 IN 0 4.7µ x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* LTC3864 - 60V, Low Iq Step-Down DC/DC Controller with 100% Duty Cycle Capability\n60W PMOS Buck Converter\nInput: 12V (6Vmin) to 60V      Output: Vout = 12V @ 5A, Fsw = 200kHz
* Notes:\n    Smaller values are used for SS capacitors to reduce simulation time. See datasheet for typical values.\n    If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n    It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n    Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n    Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n    Copyright © 2017 Linear Technology Inc. All rights reserved.
.tran 1.1m startup
.model Rload SW(Ron=5 Roff=7.5 Vt=1 Vh=-.4)
.lib LTC3864.sub
.backanno
.end
