* Z:\mnt\spice-netlists\LTC3878_DC1292A.asc
M§Q1 N004 N011 0 0 RJK0301DPB
R1 IN N002 499K
R2 OUT N008 10K
R3 N008 0 20K
D1 N007 N006 CMDSH2-3
C1 N007 0 4.7µ
M§Q2 IN N003 N004 N004 RJK0305DPB
L1 N004 OUT .47µ
Cout1 OUT 0 330µ
V1 IN 0 12
C4 N005 0 1n
C5 N004 N006 .1µ
Rload OUT 0 67m
Cout2 OUT 0 100µ
C2 N009 0 390p
R5 N010 N009 13K
C3 N010 0 68p
C6 IN 0 10µ
R4 IN N001 2.2
C7 N001 0 1µ
XU1 N005 NC_01 0 0 N010 0 N002 N008 MP_02 N001 N007 N011 0 N004 N003 N006 LTC3878
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
* LTC3878 - Fast, Wide Operating Range No Rsense Step-Down DC/DC Controller\nInput: 4.5V-14V     Output: 1.2V @ 18A, Fsw = 340kHz typical
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* 1.2V @ 18A
.lib LTC3878.sub
.backanno
.end
