* Z:\mnt\spice-netlists\LTC3879_DC1289A.asc
M§Q1 N004 N011 0 0 RJK0301DPB
R1 IN N002 402K
R2 OUT N008 10K
R3 N008 0 10K
D1 N007 N006 CMDSH2-3
C1 N007 0 4.7µ
M§Q2 IN N003 N004 N004 RJK0305DPB
L1 N004 OUT .36µ
Cout1 OUT 0 330µ
V1 IN 0 12
C4 N005 0 1n
C5 N004 N006 .1µ
XU1 N005 NC_01 N007 0 N010 0 N002 N008 NC_02 N001 N007 N011 0 N004 N003 N006 LTC3879
Rload OUT 0 80m
Cout2 OUT 0 100µ
C2 N009 0 220p
R5 N010 N009 18.2K
C3 N010 0 47p
C6 IN 0 10µ
R4 IN N001 2.2
C7 N001 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3879 - Fast, Wide Operating Range No RSENSE Step-Down Controller\nInput: 4.5V-14V     Output: 1.2V @ 15A, Fsw = 430kHz typical
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* 1.2V @ 15A
.lib LTC3879.sub
.backanno
.end
