* Z:\mnt\spice-netlists\LTC3892_DC1998A.asc
V1 IN 0 55
C1 N001 0 .1µ
C2 N007 N010 .1µ
L1 N010 N011 60µ
R1 N011 OUT2 15m
C3 OUT2 0 33µ
R2 OUT2 N014 100k
R3 N014 0 2.26k
C5 N020 0 .001µ
C6 N006 N009 .1µ
R4 N008 OUT1 4m
C7 OUT1 0 220µ
C9 N019 0 .001µ
Rload2 OUT2 0 18
Rload1 OUT1 0 0.66
M§Q3 IN N004 N009 N009 BSC057N08NS3
M§Q4 N009 N012 0 0 BSC042NE7NS3
XU1 OUT1 N021 0 N022 0 N001 IN IN OUT2 N011 N014 N017 N020 N003 N005 N010 N007 N013 N001 NC_01 N001 IN N012 N006 N009 N004 N002 NC_02 N019 N016 OUT1 N008 0 LTC3892
C10 N022 0 4.7µ
M§Q1 N010 N013 0 0 BSC042NE7NS3
M§Q2 IN N005 N010 N010 BSC057N08NS3
R5 N021 0 35.7K
C11 OUT1 0 10µ
C4 0 N018 4.7n
R6 N018 N017 19.6K
C13 0 N017 47p
C8 N015 0 15n
R7 N016 N015 5.1K
C14 N016 0 47p
L2 N008 N009 6.8µ
C16 IN 0 33µ
C17 IN 0 2µ
C18 IN 0 2µ
R8 N001 N002 100K
R9 N001 N003 100K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3892 - 60V Low Iq, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nHigh Efficiency Dual 3.3V/36V Output Step-Down Converter\nInput: 7.5V to 60V     Output: 3.3V @ 5.0A, 36V @ 2.0A, Fsw = 200kHz
* Notes:\n  This device has the ability to adjust gate drive voltage from 5V to 10V with no required external boost diodes.\n  The output voltage can be set as low as 0.8V to as high as the input voltage, with certain modifications.\n  SS capacitors have been reduced to speed up simulation time. Typical values should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LTC3892.sub
.backanno
.end
