* Z:\mnt\spice-netlists\LTC3895_DC2117A.asc
M§Q1 IN N002 N004 N004 BSC520N15NS3
L1 N004 N005 33µ
C1 OUT 0 150µ x2
R1 OUT N010 140K
R2 N010 0 10K
C2 N003 N004 .1µ
C3 0 N001 .1µ
C4 N014 0 4700p
C5 N013 0 .01µ
V1 IN 0 100
R3 N005 OUT 6m
R4 N009 0 30.1K
C6 N005 OUT 1n
R5 N006 N001 100K
R6 IN N007 191K
R7 N007 0 1.74K
XU1 N007 NC_01 N005 OUT N013 N010 N015 0 MP_02 N001 N011 MP_03 0 N006 MP_04 MP_05 N009 N012 0 N002 N004 N003 MP_06 N008 MP_07 N018 MP_08 N017 MP_09 IN MP_10 OUT MP_11 IN MP_12 N001 N016 N001 0 LTC3895
R8 0 N012 80.6K
M§Q2 IN N017 N018 N018 Si4482DY
C7 0 N018 4.7µ
M§Q3 N004 N008 0 0 BSC520N15NS3
C8 IN 0 100µ
Rload OUT 0 2.4
R9 N015 N014 10K
C9 N015 0 100p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3895 - 150V Low IQ, Synchronous Step-Down DC/DC Controller\nHigh Efficiency High Voltage Buck Converter\nInput: 14V to 130V     Output: 12V @ 5.0A, Fsw = 150kHz
* Notes:\n  This device has the ability to adjust gate drive voltage from 5V to 10V with no required external boost diodes.\n  The output voltage can be set as low as 0.8V to as high as 60V, with certain modifications.\n  SS capacitors have been reduced to speed up simulation time. Typical values should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTC3895.sub
.backanno
.end
