* Z:\mnt\spice-netlists\LTC3897_DC2108A.asc
XU1 IN N001 0 N018 NC_01 NC_02 N001 N012 0 0 0 N013 N015 N026 N021 N001 N029 N028 NC_03 N027 N020 N024 N022 N011 0 N008 N014 N016 N005 N017 IN N009 N002 N010 N003 N001 N007 N023 0 LTC3897
V1 IN 0 16
M§Q1 IN N006 N002 N002 IPB017N06N3
R1 N006 N009 10
M§Q2 N003 N010 N002 N002 IPI030N10N3
R2 N003 N001 2m
C1 N008 0 .1µ
D1 IN N008 MBRS1100
C2 N001 0 6.8µ x3
R3 N001 N007 549K
R4 N007 0 12.1K
R5 N001 N004 6m
L1 N004 N005 22µ
C3 N016 N005 .1µ
R6 N001 N019 6m
L2 N019 N020 22µ
M§Q3 N020 N022 0 0 BSC028N06LS3
C4 N024 N020 .1µ
R7 OUT N029 475K
R8 N029 0 12.1K
C5 OUT 0 4.7µ x8
C6 N011 0 4.7µ
C7 N013 0 1µ
C8 N028 0 .05µ
C9 0 N009 10n
R9 N001 N015 909K
R10 N015 0 121K
R11 N026 N025 12.1K
C10 N025 0 1500p
C11 N026 0 100p
R12 N018 0 30.1K
C12 N023 0 1000p
M§Q4 N005 N014 0 0 BSC028N06LS3
M§Q5 OUT N027 N020 N020 BSC028N06LS3
M§Q6 OUT N017 N005 N005 BSC028N06LS3
C13 N001 0 56µ
C14 OUT 0 56µ x4
R13 N004 N012 10
R14 N019 N021 10
C15 N001 N012 1n
C16 N001 N021 1n
Rload OUT 0 24
C17 IN 0 56µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 24m startup
* LTC3897 - PolyPhase Synchronous Boost Converter with Input/Output Protection\n2-Phase Synchronous Boost Converter with Surge Protection and Reverse Protection\nInput: 16V to 55V           Output: 48V @ 4A, Fsw = 160kHz
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTC3897.sub
.backanno
.end
