* Z:\mnt\spice-netlists\LTC7860_DC2392A.asc
XU1 N006 N005 N005 N009 N012 N008 N010 IN N003 N001 IN N002 N005 LTC7860
V1 IN 0 PWL(0 0 +20u 32 +2m 32 +1u 100 +2m 16)
C1 IN N003 .47µ
M§Q1 N004 N002 N001 N001 Si7489DP
R1 IN N001 6m
C2 N006 N005 .022µ
C3 N007 N005 3300p
C4 N009 N005 .001µ
R2 OUT N011 31.6K
R3 N011 0 31.6K
C5 OUT 0 150µ
L1 N004 OUT 15µ
D1 0 N004 MBR20100CT
C6 OUT N011 1500p
C7 OUT 0 12µ x3
M§Q2 0 N014 N005 N005 Si7113DN
D2 N014 IN TDZ12B
R4 N014 0 100K
R5 N010 N012 10K
R6 N013 0 205K
Q3 N010 N011 N013 0 2SC4102
C8 N010 N012 47p
D3 N010 N005 1N4148
C9 IN 0 15µ
R7 N008 N007 10K
Rload OUT 0 3.4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 7m
* LTC7860 - High Efficiency Switching Surge Stopper\nHigh Voltage, High Efficiency Switching Surge Stopper with Timer\nInput: 7V to 100V     Output: 7V to 34Vmax @ 10A     Fsw = 350kHz
* Notes:\nSS & TMR capacitors have been reduced to speed up simulation time. Typical values should be .1uF & 22uF, respectively.\nIf the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\nIt remains the customer's responsibility to verify proper and reliable operation in the actual application.\nComponent substitution and printed circuit board layout may significantly affect circuit performance or reliability.\nContact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\nCopyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTC7860.sub
.backanno
.end
