* Z:\mnt\spice-netlists\LTC7149_DC2354AVoutCntl.asc
R1 N009 OUT 200K
C1 N009 OUT 1n
R2 N006 OUT 200K
V1 IN 0 12
C2 OUT N002 2.2µ
L1 N005 0 5.6µ
C3 N004 N005 .1µ
C4 OUT 0 22µ x2
XU1 OUT MP_01 IN MP_02 IN N008 0 NC_03 N007 OUT N002 N006 N003 N009 N010 N001 N002 N004 N005 LTC7149
C5 IN 0 10µ
C6 IN 0 10µ
C7 OUT 0 150µ
R3 N010 P001 1K
C8 P001 OUT 4.7n
C9 N010 OUT 100p
C10 OUT IN 2.2µ
C11 OUT IN 1µ
R4 N008 0 20
R5 0 N001 10
C12 OUT N001 1µ
R6 0 N007 1Meg
R7 N007 OUT 137K
C13 N003 0 .01µ
R8 N003 0 10K
R9 CTRL N003 100
V2 CTRL 0 PWL(0 0 +1.5m 0 +1m 2.5 +1m 0)
Rload OUT 0 5
.tran 4m startup uic
* Notes:\n  For noise suppression filter R9/C13 is used. R8 needed to guarantee that Voutsns is never left floating.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* Vout Control Circuit
* LTC7149 - 60V, 4A Synchronous Step-Down Regulator for Inverting Outputs\nInverting Buck Regulator with Output Voltage Control\nInput: 3.4V to 50V     Output: 2.5V to -10V @ 2A
.lib LTC7149.sub
.backanno
.end
