* Z:\mnt\spice-netlists\LTC3607_DC1596A_DC1847A.asc
L2 N004 OUT2 4.7µ
R2 OUT2 N006 475K
V1 IN 0 12
C2 OUT2 0 10µ
R4 N006 0 105K
I2 OUT2 0 PULSE(.2 .6 .6m 5n 5n 100u 200u) load
C4 OUT2 N006 22p
L1 N003 OUT1 2.2µ
C3 OUT1 N005 22p
R3 N005 0 75K
C1 OUT1 0 10µ
I1 OUT1 0 PULSE(.2 .6 .6m 5n 5n 100u 200u) load
R1 OUT1 N005 150K
C5 IN 0 10µ
XU1 0 N001 IN 0 N003 IN IN N004 0 0 N002 MP_01 IN N006 N005 IN LTC3607
C7 IN 0 0.1µ
C8 IN 0 0.1µ
C6 IN 0 10µ
R5 IN N001 100K
R6 IN N002 100K
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* LTC3607 - Dual 600mA 15V Monolithic Synchronous Step-Down DC/DC Regulator\nDual 600mA 15V Monolithic Synchronous Buck Regulator\nInput: 4.5V to 15V     Outputs: 1.8V @ 600mA  & 3.3V @ 600mA, Fsw = 2.25MHz
.lib LTC3607.sub
.backanno
.end
