* Z:\mnt\spice-netlists\LTC3875_DC2000A_F23.asc
XU1 N019 N015 0 N017 N018 N016 0 N020 N012 OUT2 N014 NC_01 NC_02 NC_03 N021 NC_04 NC_05 NC_06 NC_07 N008 N004 N006 N010 NC_08 N002 IN N009 N005 N003 N007 NC_09 NC_10 0 NC_11 N001 NC_12 NC_13 N013 OUT1 N011 0 LTC3875
V1 IN 0 12
C1 0 N002 4.7µ
M§Q1 IN N003 N007 N007 BSC050NE2LS
M§Q2 N007 N009 0 0 BSC010NE2LSI
L1 N007 OUT1 .25µ
C2 N005 N007 .1µ
D1 N002 N005 CMDSH2-3
C3 N011 OUT1 220n
C4 OUT1 N013 220n
R1 N007 N011 715
R2 N007 N013 3.57K
R3 OUT1 N015 13.3K
R4 N015 0 20K
C5 N018 0 1500p
C6 N019 0 .001µ
M§Q3 IN N004 N008 N008 BSC050NE2LS
M§Q4 N008 N010 0 0 BSC010NE2LSI
L2 N008 OUT2 .33µ
C7 N006 N008 .1µ
D2 N002 N006 CMDSH2-3
C8 N012 OUT2 220n
C9 OUT2 N014 220n
R5 N008 N012 931
R6 N008 N014 4.64K
R7 OUT2 N016 30.1K
R8 N016 0 20K
R9 N021 0 100K
C10 OUT1 0 330µ x4
R10 N002 N001 3K
R11 N001 0 1K
C11 OUT1 0 100µ x3
C12 OUT2 0 100µ x3
C13 OUT2 0 330µ x3
C14 N020 0 .001µ
C15 0 N017 1500p
I§Load1 OUT1 0 PULSE(20 35 .75m 5u 5u .1m) load
I§Load2 OUT2 0 PULSE(20 35 .75m 5u 5u .1m) load
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3875 - Dual, 2-Phase, Synchronous Controller with Low Value DCR Sensing and Temperature Compensation\nHigh Efficiency Dual Output Step-Down Converter with Ultralow DCR Sensing and Fast Transient\nInput: 4.5V to 14V     Outputs: 1V @ 30A & 1.5V @ 30A, Fswitch = 400kHz
* Note:\n  Small value are used for TRACK/SS capacitors to reduce simulation time. The typical value for actual applications will vary from 10nF to 100nF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3875.sub
.backanno
.end
