* Z:\mnt\spice-netlists\LTC3875_DC2055A_F18.asc
XU1 SS N016 0 N017 N017 N016 0 SS N013 OUT N015 NC_01 NC_02 NC_03 N018 NC_04 NC_05 NC_06 NC_07 N009 N005 N007 N011 NC_08 N002 IN N010 N006 N004 N008 N003 NC_09 0 NC_10 N001 NC_11 NC_12 N014 OUT N012 0 LTC3875
V1 IN 0 12
C1 0 N002 4.7µ
M§Q1 IN N004 N008 N008 BSC050NE2LS
M§Q2 N008 N010 0 0 BSC010NE2LSI
L1 N008 OUT .25µ
C2 N006 N008 .1µ
D1 N002 N006 CMDSH2-3
C3 N012 OUT 220n
C4 OUT N014 220n
R1 N008 N012 715
R2 N008 N014 3.57K
R3 OUT N016 13.3K
R4 N016 0 20K
C5 N017 0 4700p
C6 SS 0 .001µ
M§Q3 IN N005 N009 N009 BSC050NE2LS
M§Q4 N009 N011 0 0 BSC010NE2LSI
L2 N009 OUT .25µ
C7 N007 N009 .1µ
D2 N002 N007 CMDSH2-3
C8 N013 OUT 220n
C9 OUT N015 220n
R5 N009 N013 715
R6 N009 N015 3.57K
R7 N018 0 100K
C10 OUT 0 330µ x3
R8 N002 N001 3K
R9 N001 0 1K
C11 OUT 0 100µ x3
C12 OUT 0 100µ x3
C13 OUT 0 330µ x3
I§Load OUT 0 PULSE(60 90 .5m .3u .3u 150u 1m 30) load
XU2 SS N016 0 N017 N017 N016 0 SS N030 OUT N032 NC_13 NC_14 NC_15 N033 NC_16 NC_17 NC_18 NC_19 N026 N022 N024 N028 NC_20 N020 IN N027 N023 N021 N025 NC_21 NC_22 N003 NC_23 N019 NC_24 NC_25 N031 OUT N029 0 LTC3875
C14 0 N020 4.7µ
M§Q5 IN N021 N025 N025 BSC050NE2LS
M§Q6 N025 N027 0 0 BSC010NE2LSI
L3 N025 OUT .25µ
C15 N023 N025 .1µ
D3 N020 N023 CMDSH2-3
C16 N029 OUT 220n
C17 OUT N031 220n
R11 N025 N029 715
R12 N025 N031 3.57K
C18 N017 0 220p
M§Q7 IN N022 N026 N026 BSC050NE2LS
M§Q8 N026 N028 0 0 BSC010NE2LSI
L4 N026 OUT .25µ
C20 N024 N026 .1µ
D4 N020 N024 CMDSH2-3
C21 N030 OUT 220n
C22 OUT N032 220n
R15 N026 N030 715
R16 N026 N032 3.57K
R17 N033 0 100K
C23 OUT 0 330µ x3
R18 N020 N019 3K
R19 N019 0 1K
C24 OUT 0 100µ x3
C25 OUT 0 100µ x3
C26 OUT 0 330µ x3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* LTC3875 - Dual, 2-Phase, Synchronous Controller with Low Value DCR Sensing and Temperature Compensation\nFour-Phase 1.0V, 120A Buck Converter with Ultralow DCR Sensing\nInput: 4.5V to 14V     Outputs: 1V @ 120A, Fswitch = 400kHz
* Note:\n  Small value are used for TRACK/SS capacitors to reduce simulation time. The typical value for actual applications will vary from 10nF to 100nF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.tran 750u startup
.lib LTC3875.sub
.backanno
.end
